US07470664B2
A hydrogenaton vessel was charged with a methanol (1000 mL) slurry of tert-butyl ((1R,2S)-1-{[(cyclopropylsulfonyl)amino]carbonyl}-2-vinylcyclopropyl)carbamate (164 g, 0.50 mol) (Wang et al, U.S. Pat. No. 6,995,174) and 5% Ru/C (dry, 7.5 wt %, 12.4 g) and set stirring. The vessel was placed under nitrogen (20 psig) and vented to atmospheric pressure three times to remove residual oxygen. The vessel was then placed under hydrogen (50 psig). After 20 hours, the vessel was vented to atmospheric pressure. The reaction slurry was then transferred out of the reaction and filtered through SOLKA FLOK (34 grams, wetted w/100 mL methanol) to yield a clear, light brown solution. The SOLKA FLOK was rinsed with methanol (200 mL×2). The combined methanol solutions were concentrated under reduced pressure to yield crude product as a white solid (153 g). The crude product was slurried in ethyl acetate (800 mL), warmed to 40° C. and aged 30 minutes. The solution was then seeded, aged 30 minutes, and heptane (500 mL) was added via addition funnel over 30 minutes. The partially crystallized solid was cooled to room temperature and aged overnight after which additional heptane (500 mL) was added. After one hour, additional heptane (250 mL) was added via addition funnel, and the white slurry aged for one hour. The solution was filtered and the solid was rinsed with heptane/EtOAc (500 mL, 4:1) and dried under reduced pressure to give tert-butyl ((1R,2R)-1-{[(cyclopropylsulfonyl)amino]carbonyl}-2-ethylcyclopropyl)carbamate (125.9 g).

reactant | methanol | 1000 mL | CO | CH4O
reactant | tert-butyl ((1R,2S)-1-{[(cyclopropylsulfonyl)amino]carbonyl}-2-vinylcyclopropyl)carbamate | 0.50 mol, 164 g | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(OC(C)(C)C)=O | C14H22N2O5S
reactant | heptane | 500 mL | CCCCCCC | C7H16
reactant | heptane | 500 mL | CCCCCCC | C7H16
reactant | heptane | 250 mL | CCCCCCC | C7H16
solvent | ethyl acetate | 800 mL | C(C)(=O)OCC | C4H8O2
catalyst | Ru/C | 12.4 g | [Ru] | Ru
product | tert-butyl ((1R,2R)-1-{[(cyclopropylsulfonyl)amino]carbonyl}-2-ethylcyclopropyl)carbamate | 125.9 g | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)CC)NC(OC(C)(C)C)=O | C14H24N2O5S
